US05378244
8.5 g (37 mmol) of 2-(3,5-dinitro-2-pyridyloxy)ethanol was dissolved in 250 ml of degassified ethanol. The mixture was stirred in the presence of 400 mg of 5% palladium on carbon as a catalyst under 20 atm hydrogen pressure at room temperature for 2 days in an autoclave. The reaction mixture was filtered through Celite to remove the catalyst, and subsequently, 120 ml of ethanol and 74 ml of water were added to the filtrate. The temperature was maintained at about 10° C., and 3.7 ml of acetic anhydride (37 mmol) was added in approximately 0.2 ml portions, along with 5 drops of an aqueous 48% NaOH solution from a Pasteur pipette at intervals of 10 minutes, maintaining the pH at about 6-7. The mixture was stirred for an additional 30 minutes. The mixture was concentrated, then purified by silica gel column chromatography (Merck Co., Si60, ethyl acetate-methanol=10:1). Recrystallization from methanol yielded 4.6 g (22 mmol) of 2-(3-amino-5-acetamido-2-pyridyloxy)ethanol as a green solid (yield: 59%)

reactant | 2-(3,5-dinitro-2-pyridyloxy)ethanol | 37 mmol, 8.5 g | [N+](=O)([O-])C=1C(=NC=C(C1)[N+](=O)[O-])OCCO | C7H7N3O6
reactant | hydrogen | [H][H] | H2
reactant | acetic anhydride | 37 mmol, 3.7 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | NaOH | [OH-].[Na+]
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 400 mg | [Pd] | Pd
product | 2-(3-amino-5-acetamido-2-pyridyloxy)ethanol | 22 mmol, 4.6 g, yield: 59% | NC=1C(=NC=C(C1)NC(C)=O)OCCO | C9H13N3O3
